US06610847B2
7-Benzyl-4-chloro-7H-pyrrolo[2,3-d]pyrimidine
To a stirred solution of 4-chloro-7H-pyrrolo[2,3-d]pyrimidine (250 mg/1.63 mmol) in 12 mL of DMF was added 676 mg (4.89 mmol) of potassium carbonate and the resulting mixture stirred at room temperature for 20 min. Benzylchloride (310 mg/2.45 mmol) was added and the new mixture stirred at room temperature for 24 h then filtered, concentrated and the residue purified by silica gel chromatography (3:1 hexanes/ethyl acetate) affording 318 mg (80%) of the title compound. LRMS: 244.1 (M+1).

reactant | 4-chloro-7H-pyrrolo[2,3-d]pyrimidine | 1.63 mmol, 250 mg | ClC=1C2=C(N=CN1)NC=C2 | C6H4ClN3
reactant | potassium carbonate | 4.89 mmol, 676 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Benzylchloride | 2.45 mmol, 310 mg | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
product | 7-Benzyl-4-chloro-7H-pyrrolo[2,3-d]pyrimidine | 318 mg, 80% | C(C1=CC=CC=C1)N1C=CC2=C1N=CN=C2Cl | C13H10ClN3
